US04239769
N-(2-Thienylcarbonyl)pyrrolidine
Pyrrolidine (47 ml) was added to 2-thiophene carbonyl chloride (40 g) in toluene below 10°. After 11/2 hr, water was added. The product was extracted with ethyl acetate, crystallised from toluene and recrystallised from light petroleum (b.p. 60°-80°)/ethyl acetate to give white crystals (40 g) m.p. 66°-68°; TLC silica/ethyl acetate Rf 0.5.

reactant | Pyrrolidine | 47 ml | N1CCCC1 | C4H9N
reactant | 2-thiophene carbonyl chloride | 40 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2-Thienylcarbonyl)pyrrolidine | 40 g | S1C(=CC=C1)C(=O)N1CCCC1 | C9H11NOS
